US06984653B2
(ii) Production of 2-[[(E)-2-(4-(trifluoromethyl)phenyl)ethenyl]-1,3-oxazol-4-yl]ethanol
Ethyl [[(E)-2-(4-(trifluoromethyl)phenyl)ethenyl]-1,3-oxazol-4-yl]acetate (1.72 g) was added to a suspension of calcium chloride (2.35 g) and sodium borohydride (1.60 g) in THF-ethanol (10 ml- 10 ml) at 0° C., and the mixture was stirred for 1 hr. The reaction mixture was combined with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate:hexane=1:1 to ethyl acetate) to give the titled compound (1.27 g) as a colorless crystal powder.

reactant | Ethyl [[(E)-2-(4-(trifluoromethyl)phenyl)ethenyl]-1,3-oxazol-4-yl]acetate | 1.72 g | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)CC(=O)OCC)(F)F | C16H14F3NO3
reactant | calcium chloride | 2.35 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 1.60 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF ethanol | 10 ml- 10 ml | C1CCOC1.C(C)O
product | 2-[[(E)-2-(4-(trifluoromethyl)phenyl)ethenyl]-1,3-oxazol-4-yl]ethanol | 1.27 g | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)CCO)(F)F | C14H12F3NO2
